US06403596B1
Step 1F: 2-Oxo-5-[2-(1-phenylethylamino)-pyrimidin-4-yl]-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile
To 5-(2-methylsulfonylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile (150 mg, 0.357 mmol) in a sealed tube was added (S)-∝-methylbenzylamine (150 mg) and the mixture heated under argon at 100° C. for 1 hour. The reaction was cooled and the oil dissolved in ethyl acetate (25 mL). The solution was washed 3 times with a pH 5.3 buffer solution of 10% citric acid/NaOH (15 mL). The ethyl acetate layer was dried over sodium sulfate concentrated and chromatographed on silica using 80% ethyl acetate/hexane to give 120 mg (73%) of the title compound as a solid. The solid was stirred in methanol/hexane (2 mL) for 1 hour, filtered, and dried 40° C. to give 105 mg of a solid.

reactant | 5-(2-methylsulfonylpyrimidin-4-yl)-2-oxo-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile | 0.357 mmol, 150 mg | CS(=O)(=O)C1=NC=CC(=N1)C=1C=C(C(NC1C1=CC(=CC=C1)C(F)(F)F)=O)C#N | C18H11F3N4O3S
reactant | methylbenzylamine | 150 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-Oxo-5-[2-(1-phenylethylamino)-pyrimidin-4-yl]-6-(3-trifluoromethylphenyl)-1,2-dihydropyridine-3-carbonitrile | 120 mg, 73% | O=C1NC(=C(C=C1C#N)C1=NC(=NC=C1)NC(C)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F | C25H18F3N5O
